US08486952B2
A solution of 2-chloro-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (833 mg, 3.21 mmol) and 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (717.9 mg, 3.21 μmol) in THF (5.6 mL) and acetic acid (5.6 mL) was heated at 85° C. in a 350 mL high-pressure vessel overnight. The solvent was removed in vacuum and the residue was dissolved in dichloromethane and washed with saturated aqueous sodium bicarbonate solution. The organic phase was separated and the aqueous phase was extracted with dichloromethane. The combined organic extracts were dried over anhydrous magnesium sulfate and filtered. The solvent was removed in vacuum and the residue was purified by column chromatography on silica gel to give N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine, which was contaminated with 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline. The material was triturated with methanol, cooled in the freezer and filtered. The residue was washed with freezing cold methanol and dried to give pure N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine (673.5 mg, 47%) as light brown solid. LC-MS (M+H)+=446.9. 1H NMR (500 MHz, CDCl3) δ ppm 7.99 (1H, d, J=1.8 Hz), 7.48 (1H, s), 7.27-7.33 (2H, m), 7.16-7.24 (3H, m), 6.96-7.07 (3H, m), 6.71 (1H, dd, J=8.4, 1.7 Hz), 4.50 (1H, br s), 4.20 (1H, s), 3.48 (3H, s), 3.11 (3H, d, J=4.9 Hz), 2.59-2.79 (3H, m), 2.01-2.13 (1H, m).

reactant | 2-chloro-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 3.21 mmol, 833 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC | C14H14ClN3
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | 3.21 μmol, 717.9 mg | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
solvent | THF | 5.6 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 5.6 mL | C(C)(=O)O | C2H4O2
product | N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC)OC | C24H23ClN6O
